US08211919B2
To a suspension of (2S)-2-anilino-3-tert-butoxy-N-[4-(4-pyridinyl)phenyl]propanamide (70 mg) in ethyl acetate (0.42 mL) was added 4N hydrogen chloride-ethyl acetate (1.8 mL) and the mixture was stirred at ambient temperature for 5 hours. The resulting mixture was diluted with n-hexane (2.5 mL) and the solid was collected by filtration and washed with n-hexane (2.5 mL) to give (2S)-2-anilino-3-hydroxy-N-[4-(4-pyridinyl)phenyl]propanamide dihydrochloride (72 mg) as an off-white solid.

reactant | (2S)-2-anilino-3-tert-butoxy-N-[4-(4-pyridinyl)phenyl]propanamide | 70 mg | N(C1=CC=CC=C1)[C@H](C(=O)NC1=CC=C(C=C1)C1=CC=NC=C1)COC(C)(C)C | C24H27N3O2
reactant | hydrogen chloride-ethyl acetate | 4N, 1.8 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 0.42 mL | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 2.5 mL | CCCCCC | C6H14
product | (2S)-2-anilino-3-hydroxy-N-[4-(4-pyridinyl)phenyl]propanamide dihydrochloride | 72 mg | Cl.Cl.N(C1=CC=CC=C1)[C@H](C(=O)NC1=CC=C(C=C1)C1=CC=NC=C1)CO | InChI=1S/C20H19N3O2.2ClH/c24-14-19(22-17-4-2-1-3-5-17)20(25)23-18-8-6-15(7-9-18)16-10-12-21-13-11-16;;/h1-13,19,22,24H,14H2,(H,23,25);2*1H/t19-;;/m0../s1
